US07034043B2
N-(3,5-diChlorobenzenesulfonyl)-Proline Methyl Ester:
To a solution of 24.8 g (0.15 mol) of L-Proline methyl ester hydrochloride in 500 mL of CH2Cl2 was added 70 mL (0.5 mol) of triethylamine with stirring to give copious white precipitate. The mixture was filtered, and the filtrate cooled to 0° C. (ice bath) with stirring. To the cooled solution was added a solution of 36.8 g (0.15 mol) of 3,5-dichlorobenzenesulfonyl chloride in 70 mL of CH2Cl2 dropwise quickly over five minutes. The addition funnel was rinsed with an additional 30 mL of CH2Cl2, and the cloudy yellow mixture was allowed to warm to room temperature with stirring overnight. The mixture was washed 2× with 400 mL of 1N HCl, 2× with 400 mL of 1N NaOH, then brine, then dried (MgSO4), filtered, and concentrated to a yellow oil which crystallized on standing. The material was recrystallized three times from ethyl acetate/hexanes to give 39.3 g (0.116 mol, 77%) of N-(3,5-dichlorobenzenesulfonyl)-Proline methyl ester (MW=338) as white needles (TLC on silica vs. 2:1 hexanes/ethyl acetate, Rf=0.51). M/z=339.3 (M+H+). N-(3,5-diChlorobenzenesulfonyl)-Proline: To a solution of 39.3 g (0.116 mol) of the above methyl ester in 250 mL methanol was added 115 mL (0.23 mol) of freshly-prepared 2M aqueous LiOH with stirring to give a colorless solution. This was stirred for three hours, after which HPLC showed no starting material. The solution was reduced by 50% in vacuo and partitioned between 1N HCl and CH2Cl2 (˜200 mL each). The phases were separated and the aqueous layer was washed again with CH2Cl2. The organic phases were combined, dried (MgSO4), and concentrated to a white, foamy solid. This was recrystallized twice from ethyl acetate/hexanes to give 33.8 g (0.104 mol, 90%) of the title compound as colorless, broad, flat needles. M/z=325.2 (M+H+).

reactant | N-(3,5-diChlorobenzenesulfonyl)-Proline | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N1[C@H](C(=O)O)CCC1 | C11H11Cl2NO4S
reactant | LiOH | 2M | [Li+].[OH-]
reactant | methanol | 250 mL | CO | CH4O
product | N-(3,5-diChlorobenzenesulfonyl)-Proline Methyl Ester | 0.104 mol, 33.8 g, 90% | COC([C@H]1N(CCC1)S(=O)(=O)C1=CC(=CC(=C1)Cl)Cl)=O | C12H13Cl2NO4S
